US07098226B2
1-[2-(1-Adamantyl)ethyl]-1-(2-methylaminoethyl)-3-[3-(4-pyridyl)propyl]urea dihydrochloride (Compound No. 3-1)
Methanol (4.4 ml) was added to 1-[2-(1-adamantyl)ethyl]-1-[2-[N-(t-butoxycarbonyl)-N-methylamino]ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-26) (0.30 g, 0.6 mmol), a calcium chloride tube was attached to the vessel, and the mixture was stirred at room temperature. A 10% solution of hydrogen chloride in methanol (4.4 ml) was added to the mixture, the whole was stirred for one day, and the reaction mixture was concentrated under reduced pressure to give 0.30 g (quantitatively) of the titled compound as pale yellow noncrystalline powder.

reactant | 1-[2-(1-adamantyl)ethyl]-1-[2-[N-(t-butoxycarbonyl)-N-methylamino]ethyl]-3-[3-(4-pyridyl)propyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCN(C)C(=O)OC(C)(C)C | C29H46N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 4.4 ml | CO | CH4O
solvent | Methanol | 4.4 ml | CO | CH4O
product | 1-[2-(1-Adamantyl)ethyl]-1-(2-methylaminoethyl)-3-[3-(4-pyridyl)propyl]urea dihydrochloride | Cl.Cl.C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCNC | InChI=1S/C24H38N4O.2ClH/c1-25-10-12-28(23(29)27-7-2-3-19-4-8-26-9-5-19)11-6-24-16-20-13-21(17-24)15-22(14-20)18-24;;/h4-5,8-9,20-22,25H,2-3,6-7,10-18H2,1H3,(H,27,29);2*1H
